US07501386B2
Preparation of N′-(2,3-dihydro-1-benzofuran-5-yl)-N,N-diethylbenzene-1,4-diamine
To a flask equipped with a magnetic stirrer, reflux condensor, and nitrogen inlet was added N,N-diethyl-1,4-phenylenediamine (3.35 grams, 20.4 mmoles), 5-bromo-2,3-dihydrobenzofuran (3.4 grams, 17.1 mmoles), tris(dibenzylideneacetone)dipalladium (0) (0.39 grams, 0.43 mmoles), rac-2,2′-bis(diphenylphosphino)-1,1′-binapthyl (2.1 grams, 3.4 mmoles), sodium tert-butoxide (0.71 grams, 1.28 mmoles) and anhydrous toluene (90 mL). The contents of the flask were heated to 80° C. for two days; cooled to room temperature; and filtered through a pad of silica gel. The silica gel pad was then eluted with dichloromethane (200 mL). The combined organic layers were concentrated in vacuo to yield a dark blue oil. The oil was chromatographed on silica gel, eluting with a hexane/ethyl acetate gradient to afford 4.2 grams of the desired product as a brown oil. 1H NMR (CDCl3) δ 6.6-7.0 (m, 7H), 5.15 (bs, 1H), 4.5 (t, 2H), 3.05-3.2 (m, 6H), 1.1 (t, 6H).

reactant | N,N-diethyl-1,4-phenylenediamine | 20.4 mmoles, 3.35 grams | C(C)N(C1=CC=C(C=C1)N)CC | C10H16N2
reactant | 5-bromo-2,3-dihydrobenzofuran | 17.1 mmoles, 3.4 grams | BrC=1C=CC2=C(CCO2)C1 | C8H7BrO
reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binapthyl | 3.4 mmoles, 2.1 grams | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 1.28 mmoles, 0.71 grams | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.43 mmoles, 0.39 grams | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
product | N′-(2,3-dihydro-1-benzofuran-5-yl)-N,N-diethylbenzene-1,4-diamine | 4.2 grams | O1CCC2=C1C=CC(=C2)NC2=CC=C(C=C2)N(CC)CC | C18H22N2O
